US06974870B2
To a phosgene solution (20% solution in toluene) at 0° C. was added piperazine-1-carboxylic acid benzyl ester (0.385 mL, 1.996 mmol) and diisopropylethyl amine (0.383 mL, 4.397 mmol) in 5 mL of CH2Cl2 dropwise. The resulting pale yellow mixture was stirred 2 h warming to room temperature under Ar. The phosgene solution was removed by vacuum distillation. 20 mL of anhydrous CH2Cl2 was added. The reaction vessel was cooled to 0° C. and hydrazinecarboxylic acid tert-butyl ester and diisopropylethyl amine (0.383 mL, 4.397 mmol) was added in one portion. The reaction was warmed to room temperature and stirred for 1 h. The reaction was quenched with 10 mL of saturated NaHCO3, diluted with 30 mL of EtOAc, then washed with 2×30 mnL of saturated NH4Cl solution and 30 mL of brine. The organic phase was dried over MgSO4, filtered and concentrated to provide 720 mg of 4-(N-tert-butoxycarbonyl-hydrazinocarbonyl)-piperazine-1-carboxylic acid benzyl ester as a white solid.

reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | piperazine-1-carboxylic acid benzyl ester | 1.996 mmol, 0.385 mL | C(C1=CC=CC=C1)OC(=O)N1CCNCC1 | C12H16N2O2
reactant | diisopropylethyl amine | 4.397 mmol, 0.383 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | hydrazinecarboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)NN | C5H12N2O2
reactant | diisopropylethyl amine | 4.397 mmol, 0.383 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 4-(N-tert-butoxycarbonyl-hydrazinocarbonyl)-piperazine-1-carboxylic acid benzyl ester | 720 mg | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C(=O)N(N)C(=O)OC(C)(C)C | C18H26N4O5
